US07405221B2
2-(3,4-Difluorophenoxy)-4-methoxy-5-(3-chlorophenyl)-6-[2,4-dichlorophenyl]pyrimidine
This derivative was prepared by the method described in Example 132 using 2-(3,4-difluorophenoxy)-4-methoxy-5-trifluoromethansulfonyl-6-[2,4-dichlorophenyl]pyrimidine (27 mg, 0.05 mmol) as described in Reference Example 17 and 3-chlorobenzeneboronic acid (Lancaster, 16 mg, 0.1 mmol). HPLC Rt=4.82 min. 1H-NMR 500 MHz (CDCl3): 3.88 (s, 3H), 6.45 (d, J=8 Hz, 1H), 6.51 (s, 1H), 6.67 (d, J=8 Hz, 1H), 6.71 (s, 1H), 6.95 (m, 1H), 7.05 (t, J=9 Hz, 1H), 7.8 (m, 2H), (7.39 s, 2H).

reactant | 2-(3,4-difluorophenoxy)-4-methoxy-5-trifluoromethansulfonyl-6-[2,4-dichlorophenyl]pyrimidine | 0.05 mmol, 27 mg | FC=1C=C(OC2=NC(=C(C(=N2)OC)S(=O)(=O)C(F)(F)F)C2=C(C=C(C=C2)Cl)Cl)C=CC1F | C18H9Cl2F5N2O4S
reactant | 3-chlorobenzeneboronic acid | 0.1 mmol, 16 mg | ClC=1C=C(C=CC1)B(O)O | C6H6BClO2
product | 2-(3,4-Difluorophenoxy)-4-methoxy-5-(3-chlorophenyl)-6-[2,4-dichlorophenyl]pyrimidine | FC=1C=C(OC2=NC(=C(C(=N2)OC)C2=CC(=CC=C2)Cl)C2=C(C=C(C=C2)Cl)Cl)C=CC1F | C23H13Cl3F2N2O2
